### PR TITLE
[Merged by Bors] - feat: port Topology.Algebra.Monoid

### PR DESCRIPTION
**Pull request by mcdoll**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Monoid.lean [hunk 1]
```diff
@@ -219,55 +218,55 @@ def Filter.Tendsto.units [TopologicalSpace N] [Monoid N] [HasContinuousMul N] [T
...
-/-- A version of `pi.has_continuous_mul` for non-dependent functions. It is needed because sometimes
-Lean fails to use `pi.has_continuous_mul` for non-dependent functions. -/
-@[to_additive
-      "A version of `pi.has_continuous_add` for non-dependent functions. It is needed\nbecause sometimes Lean fails to use `pi.has_continuous_add` for non-dependent functions."]
-instance Pi.has_continuous_mul' : HasContinuousMul (ι → M) :=
-  Pi.hasContinuousMul
-#align pi.has_continuous_mul' Pi.has_continuous_mul'
-#align pi.has_continuous_add' Pi.has_continuous_add'
+/-- A version of `pi.continuousMul` for non-dependent functions. It is needed because sometimes
+Lean fails to use `pi.continuousMul` for non-dependent functions. -/
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/Monoid.lean:246]:
```suggestion
Lean 3 fails to use `pi.continuousMul` for non-dependent functions. -/
```

File: Mathlib/Topology/Algebra/Monoid.lean [hunk 2]
```diff
@@ -280,31 +279,35 @@ theorem HasContinuousMul.of_nhds_one {M : Type u} [Monoid M] [TopologicalSpace M
...
+      map (uncurry (· * ·)) (𝓝 (x₀, y₀)) = map (uncurry (· * ·)) (𝓝 x₀ ×ᶠ 𝓝 y₀) :=
+        by rw [nhds_prod_eq]
+      _ = map (fun p : M × M => x₀ * p.1 * (p.2 * y₀)) (𝓝 1 ×ᶠ 𝓝 1) :=
+        by
+          simp_rw [uncurry]
+          rw [hleft x₀, hright y₀]
+          rw [prod_map_map_eq, Filter.map_map]
+          simp only [Function.comp]
+      _ = map ((fun x => x₀ * x) ∘ fun x => x * y₀) (map (uncurry (· * ·)) (𝓝 1 ×ᶠ 𝓝 1)) :=
+        by rw [key, ← Filter.map_map]
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/Monoid.lean:293]: Any idea what went wrong here?

File: Mathlib/Topology/Algebra/Monoid.lean [hunk 3]
```diff
@@ -317,24 +320,30 @@ theorem isClosed_setOf_map_one [One M₁] [One M₂] : IsClosed { f : M₁ → M
...
     IsClosed { f : M₁ → M₂ | ∀ x y, f (x * y) = f x * f y } := by
-  simp only [set_of_forall]
+  simp only [setOf_forall]
   exact
     isClosed_interᵢ fun x =>
       isClosed_interᵢ fun y =>
-        isClosed_eq (continuous_apply _) ((continuous_apply _).mul (continuous_apply _))
+        isClosed_eq (continuous_apply _) (by continuity)
+        -- Porting note: proof was:
+        --((continuous_apply _).mul (continuous_apply _))
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/Monoid.lean:331]:
```suggestion
        isClosed_eq (continuous_apply _)
          -- Porting note: proof was:
          --((continuous_apply _).mul (continuous_apply _))
          (by continuity)
```

File: Mathlib/Topology/Algebra/Monoid.lean [hunk 4]
```diff
@@ -317,24 +320,30 @@ theorem isClosed_setOf_map_one [One M₁] [One M₂] : IsClosed { f : M₁ → M
...
 
 /-- Construct a bundled monoid homomorphism `M₁ →* M₂` from a function `f` and a proof that it
 belongs to the closure of the range of the coercion from `M₁ →* M₂` (or another type of bundled
-homomorphisms that has a `monoid_hom_class` instance) to `M₁ → M₂`. -/
-@[to_additive
-      "Construct a bundled additive monoid homomorphism `M₁ →+ M₂` from a function `f`\nand a proof that it belongs to the closure of the range of the coercion from `M₁ →+ M₂` (or another\ntype of bundled homomorphisms that has a `add_monoid_hom_class` instance) to `M₁ → M₂`.",
+homomorphisms that has a `MonoidHomClass` instance) to `M₁ → M₂`. -/
+@[to_additive "Construct a bundled additive monoid homomorphism `M₁ →+ M₂` from a function `f`\n
+and a proof that it belongs to the closure of the range of the coercion from `M₁ →+ M₂` (or another\n
+type of bundled homomorphisms that has a `add_monoid_hom_class` instance) to `M₁ → M₂`.",
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/Monoid.lean:346]: These `\n`s are weird...

**Review by eric-wieser — APPROVED** [review]

File: Mathlib/Topology/Algebra/Monoid.lean (hunk 2 above)
Comment (mcdoll) [reply Mathlib/Topology/Algebra/Monoid.lean]: I have no idea why the `uncurry` and the `Function.comp` fail with `rw` (it might be the 'weaker `rw`'-issue) and we need to call `Function.comp` explicitly now because it is not reducible anymore.

Comment (mcdoll) [reply Mathlib/Topology/Algebra/Monoid.lean]: I've added a porting note for the `rw` to `simp_rw` change

File: Mathlib/Topology/Algebra/Monoid.lean [hunk 5]
```diff
@@ -0,0 +1,868 @@
...
+section ContinuousMul
+
+variable [TopologicalSpace M] [Mul M] [ContinuousMul M]
+
+@[to_additive]
+instance : ContinuousMul Mᵒᵈ :=
+  ‹ContinuousMul M›
+
+@[to_additive]
+theorem continuous_mul : Continuous fun p : M × M => p.1 * p.2 :=
```
Comment (dupuisf) [inline Mathlib/Topology/Algebra/Monoid.lean:70]:
```suggestion
@[to_additive (attr := continuity)]
theorem continuous_mul : Continuous fun p : M × M => p.1 * p.2 :=
```

File: Mathlib/Topology/Algebra/Monoid.lean [hunk 6]
```diff
@@ -0,0 +1,868 @@
...
+@[to_additive]
+instance ContinuousMul.to_continuousSMul_op : ContinuousSMul Mᵐᵒᵖ M :=
+  ⟨show Continuous ((fun p : M × M => p.1 * p.2) ∘ Prod.swap ∘ Prod.map MulOpposite.unop id) from
+      continuous_mul.comp <|
+        continuous_swap.comp <| Continuous.prod_map MulOpposite.continuous_unop continuous_id⟩
+#align has_continuous_mul.to_has_continuous_smul_op ContinuousMul.to_continuousSMul_op
+#align has_continuous_add.to_has_continuous_vadd_op ContinuousAdd.to_continuousVAdd_op
+
+@[continuity, to_additive]
+theorem Continuous.mul {f g : X → M} (hf : Continuous f) (hg : Continuous g) :
```
Comment (dupuisf) [inline Mathlib/Topology/Algebra/Monoid.lean:90]:
```suggestion
@[to_additive (attr := continuity)]
theorem Continuous.mul {f g : X → M} (hf : Continuous f) (hg : Continuous g) :
```

File: Mathlib/Topology/Algebra/Monoid.lean [hunk 7]
```diff
@@ -0,0 +1,868 @@
...
+    Continuous fun x => f x * g x :=
+  continuous_mul.comp (hf.prod_mk hg : _)
+#align continuous.mul Continuous.mul
+#align continuous.add Continuous.add
+
+@[to_additive]
+theorem continuous_mul_left (a : M) : Continuous fun b : M => a * b :=
```
Comment (dupuisf) [inline Mathlib/Topology/Algebra/Monoid.lean:97]:
```suggestion
@[to_additive (attr := continuity)]
theorem continuous_mul_left (a : M) : Continuous fun b : M => a * b :=
```

File: Mathlib/Topology/Algebra/Monoid.lean [hunk 8]
```diff
@@ -0,0 +1,868 @@
...
+  continuous_const.mul continuous_id
+#align continuous_mul_left continuous_mul_left
+#align continuous_add_left continuous_add_left
+
+@[to_additive]
+theorem continuous_mul_right (a : M) : Continuous fun b : M => b * a :=
```
Comment (dupuisf) [inline Mathlib/Topology/Algebra/Monoid.lean:103]:
```suggestion
@[to_additive (attr := continuity)]
theorem continuous_mul_right (a : M) : Continuous fun b : M => b * a :=
```

File: Mathlib/Topology/Algebra/Monoid.lean [hunk 9]
```diff
@@ -0,0 +1,868 @@
...
+  tendsto_nhdsWithin_of_tendsto_nhds_of_eventually_within _
+      ((tendsto_nhds_of_tendsto_nhdsWithin h).mul_const b) <|
+    (tendsto_nhdsWithin_iff.mp h).2.mono fun _ => (mul_lt_mul_right hb).mpr
+#align filter.tendsto_nhds_within_Iio.mul_const Filter.TendstoNhdsWithinIio.mul_const
+
+end tendsto_nhds
+
+/-- Construct a unit from limits of units and their inverses. -/
+@[to_additive "Construct an additive unit from limits of additive units and their negatives.",
+  simps]
```
Comment (dupuisf) [inline Mathlib/Topology/Algebra/Monoid.lean:202]:
```suggestion
@[to_additive "Construct an additive unit from limits of additive units and their negatives." (attr := simps)]
```

File: Mathlib/Topology/Algebra/Monoid.lean [hunk 10]
```diff
@@ -0,0 +1,868 @@
...
+
+@[to_additive]
+theorem IsCompact.mul {s t : Set M} (hs : IsCompact s) (ht : IsCompact t) : IsCompact (s * t) := by
+  rw [← image_mul_prod]
+  exact (hs.prod ht).image continuous_mul
+#align is_compact.mul IsCompact.mul
+#align is_compact.add IsCompact.add
+
+/- ./././Mathport/Syntax/Translate/Expr.lean:177:8: unsupported: ambiguous notation -/
+@[to_additive]
```
Comment (dupuisf) [inline Mathlib/Topology/Algebra/Monoid.lean:526]:
```suggestion
@[to_additive]
```

File: Mathlib/Topology/Algebra/Monoid.lean [hunk 11]
```diff
@@ -0,0 +1,868 @@
...
+  | f::l, h => by
+    simp only [List.map_cons, List.prod_cons]
+    exact
+      (h f (List.mem_cons_self _ _)).mul
+        (tendsto_list_prod l fun c hc => h c (List.mem_cons_of_mem _ hc))
+#align tendsto_list_prod tendsto_list_prod
+#align tendsto_list_sum tendsto_list_sum
+
+@[to_additive]
+theorem continuous_list_prod {f : ι → X → M} (l : List ι) (h : ∀ i ∈ l, Continuous (f i)) :
```
Comment (dupuisf) [inline Mathlib/Topology/Algebra/Monoid.lean:541]:
```suggestion
@[to_additive (attr := continuity)]
theorem continuous_list_prod {f : ι → X → M} (l : List ι) (h : ∀ i ∈ l, Continuous (f i)) :
```

File: Mathlib/Topology/Algebra/Monoid.lean [hunk 12]
```diff
@@ -0,0 +1,868 @@
...
+  rw [continuousWithinAt_iff_continuousAt_restrict _ hx]
+  refine' tendsto_list_prod _ fun i hi => _
+  specialize h i hi x hx
+  rw [continuousWithinAt_iff_continuousAt_restrict _ hx] at h
+  exact h
+#align continuous_on_list_prod continuousOn_list_prod
+#align continuous_on_list_sum continuousOn_list_sum
+
+@[continuity, to_additive]
+theorem continuous_pow : ∀ n : ℕ, Continuous fun a : M => a ^ n
```
Comment (dupuisf) [inline Mathlib/Topology/Algebra/Monoid.lean:562]:
```suggestion
@[to_additive (attr := continuity)]
theorem continuous_pow : ∀ n : ℕ, Continuous fun a : M => a ^ n
```

File: Mathlib/Topology/Algebra/Monoid.lean [hunk 13]
```diff
@@ -0,0 +1,868 @@
...
+  ⟨continuous_nsmul⟩
+#align add_monoid.has_continuous_const_smul_nat AddMonoid.continuousConstSMul_nat
+
+instance AddMonoid.continuousSMul_nat {A} [AddMonoid A] [TopologicalSpace A]
+    [ContinuousAdd A] : ContinuousSMul ℕ A :=
+  ⟨continuous_uncurry_of_discreteTopology continuous_nsmul⟩
+#align add_monoid.has_continuous_smul_nat AddMonoid.continuousSMul_nat
+
+@[continuity, to_additive]
+theorem Continuous.pow {f : X → M} (h : Continuous f) (n : ℕ) : Continuous fun b => f b ^ n :=
```
Comment (dupuisf) [inline Mathlib/Topology/Algebra/Monoid.lean:581]:
```suggestion
@[to_additive (attr := continuity)]
theorem Continuous.pow {f : X → M} (h : Continuous f) (n : ℕ) : Continuous fun b => f b ^ n :=
```

File: Mathlib/Topology/Algebra/Monoid.lean [hunk 14]
```diff
@@ -0,0 +1,868 @@
...
+variable [MulOneClass M₁] [MulOneClass M₂] [ContinuousMul M₂]
+  {F : Type _} [MonoidHomClass F M₁ M₂] {l : Filter α}
+
+/-- Construct a bundled monoid homomorphism `M₁ →* M₂` from a function `f` and a proof that it
+belongs to the closure of the range of the coercion from `M₁ →* M₂` (or another type of bundled
+homomorphisms that has a `MonoidHomClass` instance) to `M₁ → M₂`. -/
+@[to_additive "Construct a bundled additive monoid homomorphism `M₁ →+ M₂` from a function `f`
+and a proof that it belongs to the closure of the range of the coercion from `M₁ →+ M₂` (or another
+type of bundled homomorphisms that has a `add_monoid_hom_class` instance) to `M₁ → M₂`.",
+  simps (config := { fullyApplied := false })]
```
Comment (dupuisf) [inline Mathlib/Topology/Algebra/Monoid.lean:345]: I guess this and the next one should also be converted to `(attr := foo)`, but I'm not sure of the exact syntax.

Comment (urkud) [reply Mathlib/Topology/Algebra/Monoid.lean:345]: `to_additive (attr := simps (config := { fullyApplied := false })) "Construct..."`

File: Mathlib/Topology/Algebra/Monoid.lean [hunk 15]
```diff
@@ -0,0 +1,866 @@
...
+
+@[to_additive]
+theorem continuousOn_multiset_prod {f : ι → X → M} (s : Multiset ι) {t : Set X} :
+    (∀ i ∈ s, ContinuousOn (f i) t) → ContinuousOn (fun a => (s.map fun i => f i a).prod) t := by
+  rcases s with ⟨l⟩
+  simpa using continuousOn_list_prod l
+#align continuous_on_multiset_prod continuousOn_multiset_prod
+#align continuous_on_multiset_sum continuousOn_multiset_sum
+
+@[continuity, to_additive]
```
Comment (mcdoll) [inline Mathlib/Topology/Algebra/Monoid.lean:762]:
```suggestion
@[to_additive (attr := continuity)]
```

File: Mathlib/Topology/Algebra/Monoid.lean [hunk 16]
```diff
@@ -0,0 +1,866 @@
...
+
+@[to_additive]
+theorem tendsto_finset_prod {f : ι → α → M} {x : Filter α} {a : ι → M} (s : Finset ι) :
+    (∀ i ∈ s, Tendsto (f i) x (𝓝 (a i))) →
+      Tendsto (fun b => ∏ c in s, f c b) x (𝓝 (∏ c in s, a c)) :=
+  tendsto_multiset_prod _
+#align tendsto_finset_prod tendsto_finset_prod
+#align tendsto_finset_sum tendsto_finset_sum
+
+@[continuity, to_additive]
```
Comment (mcdoll) [inline Mathlib/Topology/Algebra/Monoid.lean:746]:
```suggestion
@[to_additive (attr := continuity)]
```

**Review by jcommelin — APPROVED** [review]

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
